US04728653
Preparation of 8-methyl-6-(5-cyano-2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone, 1/4H2O
A mixture of 8-methyl-6-(2,4-dimethyl-5-iodoimidazol-1-yl)-2-(1H)-quinolone (0.1 g), cuprous cyanide (0.047 g) and palladium acetate (0.01 g), in N-methyl-2-pyrrolidone (1 cm3) was heated and stirred at 175° for 3 hours. The cooled mixture was poured into aqueous ammonia solution (10 cm3 ; S.G. 0.880) and dichloromethane (50 cm3) and the aqueous phase was further extracted with dichloromethane (2×50 cm3). The combined and dried (MgSO4) organic extracts were filtered and evaporated in vacuo and the residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane:methanol, 19:1. Combination and evaporation of appropriate fractions afforded an oil which crystallised on trituration with ether to give the title compound, m.p. 334°-337° (0.03 g).

reactant | 8-methyl-6-(2,4-dimethyl-5-iodoimidazol-1-yl)-2-(1H)-quinolone | 0.1 g | CC=1C=C(C=C2C=CC(NC12)=O)N1C(=NC(=C1I)C)C | C15H14IN3O
reactant | ammonia | 10 cm3 | N | H3N
reactant | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
reactant | N-methyl-2-pyrrolidone | 1 cm3 | CN1C(CCC1)=O | C5H9NO
catalyst | palladium acetate | 0.01 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-methyl-6-(5-cyano-2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone | CC=1C=C(C=C2C=CC(NC12)=O)N1C(=NC(=C1C#N)C)C | C16H14N4O
